Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
Aspirin / Adhesive Tape / Percocet / Erythromycin Base / Bee 
Sting Kit / adhesive bandage / Caffeine
 
Attending: ___.
 
Chief Complaint:
Symptomatic macromastia
 
Major Surgical or Invasive Procedure:
MAMMOPLASTY REDUCTION BILATERAL

 
History of Present Illness:
___ yo morbidly obese woman with multinodular goiter, sarcoid, 
HTN, SPinal stenosis, B TKAs, lami and fusion with symptomatic 
macromastia.  She is here today for bilateral breast reduction.
 
Past Medical History:
ARTHRITIS                                                       
BRAIN ANEURYSM                                                  
HYPOTHYROIDISM                                                  
MULTINODULAR GOITER                                             
LOW BACK PAIN                                                   
HYPERSENSITIVITY                                                
RASH                                                            
FRONTAL LOBE SYNDROME                                           
HEADACHE                                                        
OBESITY                                                         
ROTATOR CUFF INJURY                                             
LYMPHADENOPATHY                                                 
PULMONARY NODULE                                                
SARCOID                                                         
RIGHT WRIST PAIN     

 
Social History:
___
Family History:
Positive for breast cancer in the patient's mother. Brother and 
father both status post CABG. Brother with type ___ diabetes.

 
Physical Exam:
Physical exam per PRS post op check ___ 1516 Temp: 97.7 PO BP: 112/72 L Lying HR: 66 RR: 16 O2
sat: 94% O2 delivery: RA 
___ 1520 Dyspnea: 0 RASS: -1 Pain Score: ___ Pedal Pulses:
Left DPP: + Right DPP: + 
___ 1521 IV Solution: OR/PACU IVF IV Amt Infused: 1613ml 
___ 1521 Urine Amt: No Foley DTV@1600 
General: Sleepy, NAD
Mental/psych: A+Ox3
chest: bilateral breasts soft, no evidence of hematoma. 
Bilateral
IMF incisions intact with small amount of bleeding around
xeroform strip.  Nipples intact with xeroform dressings. 
Surgibra
in place.
Heart: RRR
Lungs: CTAB
Abd: Large, round and soft, NT.
BLE: No ankle edema. Pneumoboots in place.

 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ and had a bilateral breast reduction.  The patient 
tolerated the procedure well. 
 .
 Neuro: Post-operatively, the patient was heavily sedated and 
difficult to arouse.  She was given narcan with good effect in 
the PACU and then transferred to floor.  Upon further assessment 
on the floor, the patient, again, became difficult to arouse and 
was given a repeat dose of narcan with good result.  She became 
much more alert and responsive.  Patient was monitored with 
continuous oxygen monitoring overnight for safety. 
.
 CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.
 .
 Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
 .
 GI/GU: Post-operatively, the patient was given IV fluids until 
tolerating oral intake.  Her diet was advanced when appropriate, 
which was tolerated well. Intake and output were closely 
monitored. 
 .
 Prophylaxis: The patient was encouraged to get up and ambulate 
as early as possible. 
 .
 At the time of discharge on POD#1, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diet, 
ambulating with cane and assistance, voiding without assistance, 
and pain was well controlled.  Bilateral breasts soft without 
evidence of hematoma, bilateral nipples warm, pink and viable.  
+ ___ ecchymosis about IMF incisions bilaterally.  
Incisions intact.  Surgibra in place. Patient discharged to 
rehab facility due to inability to safely go up and down stairs. 
 She lives alone and needs to be able to go up and down stairs.  
She will continue work with ___ at rehab. 

 
 
Medications on Admission:
1. Acetaminophen 650 mg PO Q6H pain  
2. Artificial Tears ___ DROP BOTH EYES PRN dry eyes  
3. Calcium Carbonate 1000 mg PO BID  
4. Levothyroxine Sodium 50 mcg PO DAILY  
5. Minocycline 100 mg PO Q12H  
6. Multivitamins 1 TAB PO DAILY  
7. Pramipexole 0.25 mg PO TID  
8. Topiramate (Topamax) 50 mg PO BID  
9. trospium 60 mg oral DAILY  
10. Venlafaxine 200 mg PO QHS  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H pain  
2.  Artificial Tears ___ DROP BOTH EYES PRN dry eyes  
3.  Calcium Carbonate 1000 mg PO BID  
4.  Levothyroxine Sodium 50 mcg PO DAILY  
5.  Minocycline 100 mg PO Q12H  
6.  Multivitamins 1 TAB PO DAILY  
7.  Pramipexole 0.25 mg PO TID  
8.  Topiramate (Topamax) 50 mg PO BID  
9.  trospium 60 mg oral DAILY  
10.  Venlafaxine 200 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
symptomatic macromastia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted on ___ for a bilateral breast reduction. 
Please follow these discharge instructions.
 .
 Personal Care: 
 1. You may remove any dressings from your incision sites 48 
hours after surgery.
2. You may shower 48 hours after surgery. 
 3. You should keep your surgibra in place. You may remove for 
laundering and showering.
 4. You may expect some drainage from your incisions for up to 1 
month. 
TIP: You may pad your bras with clean ___ to absorb any 
drainage.  This provides a clean and absorbent dressing!
 . 
 Activity: 
 1. You may resume your regular diet. 
 2. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity until instructed by Dr. ___. 
 . 
 Medications: 
 1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered. 
 2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging.  
 3. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish. 
 4. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber. 
 5. Do not take any medicines such as Motrin, Aspirin, Advil or 
Ibuprofen, unless instructed to do so by Dr. ___.
 . 
 Call the office IMMEDIATELY if you have any of the following: 
 1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s). 
 2. A large amount of bleeding from the incision(s) or drain(s). 

 3. Fever greater than 101.5 oF 
 4. Severe pain NOT relieved by your medication. 
 . 
 Return to the ER if: 
 * If you are vomiting and cannot keep in fluids or your 
medications. 
 * If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incisions, chest pain, shortness of breath, or 
anything else that is troubling you. 
 * Any serious change in your symptoms, or any new symptoms that 
concern you. 

 
Followup Instructions:
___